Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right arm weakness and unsteadiness with walking. 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ is a ___ year old woman with past medical history 
significant for stroke ___ (thought to be ___ hypercoaguable 
state from OCPs and smoking), right pericallosal aneurysm s/p 
clipping in ___, hypertension, hyperlipidemia who presents with 
left-sided weakness and gait unsteadiness worsening since 
___.  She reports that sometime on ___ she 
noticed that her
left leg which is always weak seemed weaker than normal as well 
as her left arm.  She has noticed that her right leg seemed a 
little bit weak which was new for her and she knows that she was 
having trouble writing.  Over the next few days she has had more 
trouble with her right hand and she has been dropping
things.  She has also had multiple falls.  Yesterday she fell at 
home and her sister had to help her out because she could not 
get up on her own.  She says that she thinks the weakness might 
feel a little bit better when she is walking around, but she 
feels off balance so she has not been able to walk much.  She 
has a hard time describing this feeling of off balance; she does 
not report
any room spinning or lightheadedness she just feels like she 
might fall.  She has not had any illnesses recently and she has 
not had any medication changes.

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies numbness, parasthesia. Denies loss of 
sensation. Denies bowel or bladder incontinence or retention. 
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Hyperlipidemia
Gout
CVA, minimal left hemiparesis
History of alcohol dependence
Fracture femur in ___

 
Social History:
___
FAMILY HISTORY:
Her mother had a stroke hypertension and myocardial infarction.

 
Family History:
Her mother had a stroke hypertension and myocardial infarction.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
PHYSICAL EXAMINATION
Vitals: T: 97.2 HR 71 BP 165/79 RR 18 SaO2 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: Irregular rhymthm. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Patient was able to name both high and low frequency objects.  
Able to read without difficulty. Speech was not dysarthric. Able 
to
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally with correction. 
V: Facial sensation intact to light touch.
VII: Slight left facial droop, which activates symmetrically. 
Left orbital fissure slightly wider compared to the right with
strong eye closure bilaterally.  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.  No adventitious movements, such as tremor, noted. 
No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
 L  5    5   4+  4+  5  4+ 5  4+  5    4+ 5     5     5   
 R  5    ___   ___  4+  5    5  5     5     5   

Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    1   1
 R  2  2    2    1   1
Plantar response was flexor on right, mute on left. 

Coordination: Dysmetria present on finger-nose-finger left 
greater than right.  Slight dysmetria present on heel to shin 
bilaterally.  Patient had dysmetria when reaching for her phone 
and trying to unlock it when I asked her about it she seemed 
like she had not noticed it before but seemed to think it was 
new.

Gait: Upon sitting up in bed patient with very prominent truncal 
ataxia, but able to sit up straight.  On standing, patient with 
sway.  Upon taking one step she lost balance and fell onto 
examiner.  She said this is how her standing and walking has 
been at home for the past few days and that she has been using 
an
assistive device to help her but it has not been enough that she 
has been falling.  Unable to test Romberg.

========================
DISCHARGE PHYSICAL EXAM:
========================
Objective:
24 HR Data (last updated ___ @ 757)
Temp: 97.6 (Tm 98.4) 
BP: 134/73 (124-162/70-97) 
HR: 67 (51-74), RR: 16 (___) 
O2 sat: 98% (94-100) 
O2 delivery: Ra  

Physical exam:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic exam: 
Mental status:
Alert and oriented x3, attentive. Speech is fluent without
dysarthria.  Able to carry out extensive conversations with good
comprehension of hospital course and plan. 

CN: 
II, III, IV, VI: Pupils constrict 3 to 2mm on right and 3.5-2.5
on left. Visual fields full. R ptosis (may be chronic). 
V: Facial sensation intact to light touch bilaterally (L side
feels 50% of R side chronically).
VII: Slight lower L facial droop (chronic) 
VIII: Hearing intact to finger rub bilaterally 
IX, X: Palate elevates symmetrically
XI: ___ strength in R, L trapezii and SCM
XII: Tongue protrudes midline

Motor: normal bulk and tone, no extraneous movements
   Delt  Tri Bic  WrE  FE  FF  IP  Ham  TA  Gas
L   4+    4+  5    5    4+  ___    5   5
R   5     5   5    5    ___   5    5   5

Pronator drift (downwards) on L 

Sensory: 
Deferred

Coordination: 
Significant dysmetria with to FTN L worse than R. 

Reflexes: 
Deferred.

Gait: 
Very unsteady, falling backwards and towards the left. Left leg
drags. 

 
Pertinent Results:
___ 08:30AM BLOOD WBC-3.5* RBC-4.58 Hgb-13.3 Hct-40.8 
MCV-89 MCH-29.0 MCHC-32.6 RDW-13.7 RDWSD-44.4 Plt ___
___ 08:30AM BLOOD Glucose-100 UreaN-19 Creat-1.1 (baseline) 
Na-142 K-4.3 Cl-105 HCO3-24 AnGap-13

MRI brain ___: 
1. Few small foci of slow diffusion involving the left corona 
radiata and left frontal lobe. 
2. Old right frontal parietal infarction where there is 
associated volume 
loss. 
3. A few small old right cerebellar infarcts. 
4. Moderate white matter chronic small vessel ischemic disease. 
5. Status post right frontal craniotomy and clipping of a right 
pericallosal artery aneurysm. 

Echo ___:
IMPRESSION: Mild-moderate mitral regurgitation. Mild pulmonary 
artery systolic hypertension. Normal biventricular cavity sizes 
with preserved regional and global biventricular systolic 
function. No definite structural cardiac source of embolism 
identified.

 
Brief Hospital Course:
Patient is a ___ year old female with past medical history most 
remarkable for remote right sided parietal and cerebellar 
strokes with residual left sided weakness, right pericallosal 
aneurysm status post clipping in ___, hypertension, and 
hyperlipidemia whom presented ___ with right sided 
weakness found to have left corona radiata infarction. Etiology 
of patient's stroke uncertain, but suspect paroxysmal atrial 
fibrillation given large vessel occlusion and now history of 
bilateral strokes in different vascular territories. No atrial 
fibrillation on telemetry, but have arranged for patient to be 
monitored with outpatient holter (scheduled ___. Patient 
has been taking aspirin 325 mg daily for stroke risk reduction, 
but this admission we have switched her to clopidogrel 75 mg 
daily. Patient's LDL found to be 95 and we have increased her 
rosuvastatin to 30 mg daily (from 20 mg daily) with hopes to get 
her to goal of less than 70. Patient by the time of discharge 
had full motor strength on the right and her exam remained 
remarkable for chronic left sided weakness. Patient was having 
difficulty with ambulating and was at high risk of falling. 
Therefore, she was discharged to acute rehabilitation to work on 
improved and safe ambulation. Patient was told to follow up with 
her primary care physician to obtain ___ neurology referral. 
Patient should be neurologist in 3 months from discharge. 

Transitional issues: 
Left corona radiate/motor cortex stroke: 
Please ensure that patient makes Holter placement appointment 
___.  Please ensure patient has scheduled appointment 
with PCP ___ days post discharge from acute rehabilitation to 
follow up on this hospitalization and to obtain referral to see 
neurologist 3 months post discharge. 

Leukopenia and thrombocytopenia: 
Patient needs to have levels followed up with PCP. If 
chronically low, might need hematology work up to rule out 
hematologic disorder.  Patient also with mild chronic kidney 
disease and mildly elevated alkaline phosphatase.  Would 
recommend starting with outpatient SPEP/UPEP to rule out 
multiple myeloma. 

Hyperlipidemia: 
Patient's LDL 98 this admission, increased rosuvastatin to 30 mg 
daily to work towards goal of less than 70.  Will need to follow 
up with PCP. 

Hypertension: 
There were no changes in her hypertension medications this 
admission, would follow up with PCP to ensure blood pressure 
adequately managed. 

  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 200 mg PO DAILY 
2. Metoprolol Succinate XL 350 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. OLANZapine 10 mg PO DAILY 
5. amLODIPine 10 mg PO DAILY 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY  
2.  Rosuvastatin Calcium 30 mg PO QPM  
3.  amLODIPine 10 mg PO DAILY  
4.  LamoTRIgine 200 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Metoprolol Succinate XL 350 mg PO DAILY  
7.  OLANZapine 10 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left corona radiata stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You presented to the hospital with right sided weakness and 
walking unsteadiness and were found to have had a stroke on the 
left side of your brain. Thankfully, it looks like you are 
recovering well from this stroke and we have transferred you to 
acute rehabilitation to maximize your recovery potential.  

We want to help prevent you from having another stroke and have 
therefore changed some of your current medications.  We have 
started you on clopidogrel 75 mg daily and you will discontinue 
taking aspirin 325 mg daily.  We have increased your 
rosuvastatin to 30 mg daily (from 20 mg daily) to help tighten 
control of your blood lipid levels. 

Ultimately, we are uncertain why you had a stroke, but we 
suspect that you have an abnormal rhythm in your heart that is 
increasing your risks of having strokes.  Therefore, will have 
scheduled for you to come to pick up a monitor to wear to 
possibly detect this abnormal rhythm.  

Please have your primary care physician send ___ referral for you 
to follow up with a neurologist in three months so that your 
stroke management can be reviewed. 

Thank you for allowing us to care for you, 
___ Stroke Team    
 
Followup Instructions:
___